US07973176B2
124 g of (R)-3-hydroxypyrrolidine hydrochloride was dissolved in 187 g of distilled water and neutralized by adding 217 g of aqueous solution of potassium carbonate (containing 72 g of potassium carbonate). 431 g of THF solution of di-tert-butyl dicarbonate (containing 214 g of di-tert-butyl dicarbonate) was dropped into the solution. After stirring for a while, an extraction was carried out with 565 g of toluene, and the mixture was concentrated, thereby obtaining 180 g of N-tert-butoxycarbonyl-(R)-3-hydroxypyrrolidine (yield of 96%).

reactant | (R)-3-hydroxypyrrolidine hydrochloride | 124 g | Cl.O[C@H]1CNCC1
reactant | potassium carbonate | 72 g | C([O-])([O-])=O.[K+].[K+]
reactant | THF | 431 g | C1CCOC1 | C4H8O
reactant | di-tert-butyl dicarbonate | 214 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | water | 187 g | O | H2O
product | N-tert-butoxycarbonyl-(R)-3-hydroxypyrrolidine | 180 g, yield of 96% | C(C)(C)(C)OC(=O)N1C[C@@H](CC1)O | C9H17NO3
